US07977352B2
A.8 4-(5-Chloro-[1,2,4]-triazolo[1,5-a]pyridin-8-ylamino)-N-pyridin-3-ylmethyl-benzamide
A solution of 8-bromo-5-chloro-[1,2,4]triazolo[1,5-a]pyridine (100 mg, 0.43 mmol), 4-Amino-N-pyridin-3-ylmethyl-benzamide (108 mg, 0.48 mmol), sodium-tert-butoxide (58 mg, 0.6 mmol), tris(dibenzylideneacetone)dipalladium (0) (39 mg, 40 μmol) and Xantphos (50 mg, 90 μmol) in dioxane is degassed for one minute by nitrogen bubbling and then irradiated in a sealed tube in a microwave (CEM Explorer) under a nitrogen atmosphere for 30 minutes at 110° C. The solvent is evaporated and the crude is dissolved in dichloromethane and filtered in order to remove the palladium catalyst. The residue is purified by flash chromatography (silica gel, dichloromethane/7N NH3 in methanol 95:5) affording the title compound (117 mg) as a solid.

reactant | 8-bromo-5-chloro-[1,2,4]triazolo[1,5-a]pyridine | 0.43 mmol, 100 mg | BrC=1C=2N(C(=CC1)Cl)N=CN2 | C6H3BrClN3
reactant | 4-Amino-N-pyridin-3-ylmethyl-benzamide | 0.48 mmol, 108 mg | NC1=CC=C(C(=O)NCC=2C=NC=CC2)C=C1 | C13H13N3O
reactant | sodium-tert-butoxide | 0.6 mmol, 58 mg | CC(C)([O-])C.[Na+]
reactant | Xantphos | 90 μmol, 50 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 40 μmol, 39 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(5-Chloro-[1,2,4]-triazolo[1,5-a]pyridin-8-ylamino)-N-pyridin-3-ylmethyl-benzamide | 117 mg | ClC1=CC=C(C=2N1N=CN2)NC2=CC=C(C(=O)NCC=1C=NC=CC1)C=C2 | C19H15ClN6O
